US08492378B2
1-[4-(methylthio)phenyl]-6-[5-[2-[3-(trifluoromethyl)phenyl]ethyl]-1,3,4-oxadiazol-2-yl]-1H-benzimidazole
In the same manner as in Example 14 and using 1-[4-(methylthio)phenyl]-1H-benzimidazole-6-carbohydrazide instead of 1H-benzotriazole-5-carbohydrazide and using 3-[3-(trifluoromethyl)phenyl]propionic acid instead of 3-(3-cyanophenyl)propionic acid, the title compound (yield 70%) was obtained as colorless crystals.

reactant | 1-[4-(methylthio)phenyl]-1H-benzimidazole-6-carbohydrazide | CSC1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C(=O)NN | C15H14N4OS
reactant | 3-[3-(trifluoromethyl)phenyl]propionic acid | FC(C=1C=C(C=CC1)CCC(=O)O)(F)F | C10H9F3O2
product | 1-[4-(methylthio)phenyl]-6-[5-[2-[3-(trifluoromethyl)phenyl]ethyl]-1,3,4-oxadiazol-2-yl]-1H-benzimidazole | yield 70% | CSC1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C=2OC(=NN2)CCC2=CC(=CC=C2)C(F)(F)F | C25H19F3N4OS
